US04810716
Pyrrolidine (2.42 g, 34.0 mMol) is added to acetic acid (2.04 g, 34.0 mMol), and the mixture is stirred at room temperature for 20 minutes. After this time, 6-phenyl-2-hexanone (4.00 g, 22.6 mMol) as a solution in diethyl ether (20 ml) is added, and the mixture is allowed to stir for an additional 15 minutes. An ethereal solution of iso-vanillin (3.45 g, 22.5 mMol) is then added dropwise. The reaction mixture is stirred for 48 hours. HCl (1.0N, 30 ml) is then added to the reaction mixture, and the contents stirred for 20 minutes. The mixture is then taken up into an equal volume of ethyl acetate, and the phases separated. The organic layer is washed with saturated aqueous sodium bicarbonate, dried (sodium sulfate), and concentrated. The residue is chromatographed (silica gel; hexane/ethyl acetate 3:1) to afford 1.0 g (28%) of 1-(3-hydroxy-4-methoxyphenyl)-7-phenyl-1-hepten-3-one, mp=70°-75 ° C. C, H analysis Calcd. for C20H22O3 (77.39, 7.14); Found (77.68, 6.94). The procedure of Example 1 is within that described in the above cited reference by Itokawa H. et al in the Chem. Pharm. Bull. Similarly prepared are Examples 2-12 using the procedure of Example 1.

reactant | Pyrrolidine | 34.0 mMol, 2.42 g | N1CCCC1 | C4H9N
reactant | acetic acid | 34.0 mMol, 2.04 g | C(C)(=O)O | C2H4O2
reactant | 6-phenyl-2-hexanone | 22.6 mMol, 4.00 g | C1(=CC=CC=C1)CCCCC(C)=O | C12H16O
reactant | iso-vanillin | 22.5 mMol, 3.45 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | HCl | 1.0N, 30 ml | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-hydroxy-4-methoxyphenyl)-7-phenyl-1-hepten-3-one | 1.0 g, 28% | OC=1C=C(C=CC1OC)C=CC(CCCCC1=CC=CC=C1)=O | C20H22O3
